### ISSUE TITLE
Formalize Theorem 5.4.4 statement (character vanishing or scalar action)

### ISSUE THREAD

**Issue by kim-em** [FormalFrontier/Etingof-RepresentationTheory-draft1#646]
## Goal

Replace the `True` placeholder in Theorem 5.4.4 with a proper Lean statement.

## Current state

`EtingofRepresentationTheory/Chapter5/Theorem5_4_4.lean` currently has:
```lean
theorem Etingof.Theorem5_4_4
    (G : Type) [Group G] [Fintype G] [DecidableEq G]
    (V : FDRep ℂ G)
    (g : G)
    (h_coprime : True) :  -- placeholder for gcd condition
    True := by
  trivial
```

This is marked `sorry_free` in items.json but is actually a stub (`has_true_hypothesis: true`).

## Proper statement

For an irreducible representation V and g ∈ G with gcd(|Cl(g)|, dim V) = 1:
either χ_V(g) = 0, or ρ(g) = λ · id for some root of unity λ.

```lean
theorem Etingof.Theorem5_4_4
    (G : Type) [Group G] [Fintype G] [DecidableEq G]
    (V : FDRep ℂ G) [Simple V]
    (g : G)
    (h_coprime : Nat.Coprime (Fintype.card {h : G // IsConj g h}) (Module.finrank ℂ V)) :
    V.character g = 0 ∨ ∃ λ : ℂ, ‖λ‖ = 1 ∧ V.ρ g = λ • LinearMap.id := by
  sorry
```

## Proof sketch

Uses Lemma 5.4.5 (roots of unity average, already proved). If gcd(|Cl(g)|, dim V) = 1, then χ_V(g)/dim(V) is an algebraic integer. The eigenvalues of ρ(g) are roots of unity (since g has finite order). By Lemma 5.4.5, either the average is 0 (so χ_V(g) = 0) or all eigenvalues are equal (so g acts as scalar).

## Context

- Does not depend on column orthogonality infrastructure
- Blocks: Theorem 5.4.6 (which also needs column orthogonality)
- Uses: Lemma 5.4.5 (already proved)
